US04077982
5-(2-Methylbenzyloxy)-2-(3chlorophenyl)-1,3-dioxane
Using the procedure of Example 9, 5-hydroxy-2-(3-chlorophenyl)-1,3-dioxane (21.5 g, 0.1 mole) was reacted with 2-methylbenzyl chloride (14.0 g, 0.1 mole) to give a heavy oil, which on distillation under 1 × 10-4 mm pressure gave 12.5 g of product which distilled at a pot temperature of 160°-170° C. Analysis by nmr indicated this product to contain 18% cis-5-(2-methylbenzyloxy)-2-(3-chlorophenyl)-1,3-dioxane.

reactant | 5-hydroxy-2-(3-chlorophenyl)-1,3-dioxane | 0.1 mole, 21.5 g | OC1COC(OC1)C1=CC(=CC=C1)Cl | C10H11ClO3
reactant | 2-methylbenzyl chloride | 0.1 mole, 14.0 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
product | 5-(2-Methylbenzyloxy)-2-(3chlorophenyl)-1,3-dioxane | 12.5 g | CC1=C(COC2COC(OC2)C2=CC(=CC=C2)Cl)C=CC=C1 | C18H19ClO3
